US07691885B2
tert-butyl 2-(2-fluoro-5-phenylpyridin-3-yl)-1H-indole-1-carboxylate
Na2CO3 (279 mg, 2.63 mmol, 6.9 Eq.) in water (2 mL) was added to a mixture of 2-fluoro-3-iodo-5-phenyl-pyridine (114 mg, 0.38 mmol, 1.0 Eq.), Pd(PPh3)4 (44 mg, 0.04 mmol, 10 mol %) and 1-boc-indole-2-boronic acid (116 mg, 0.57 mmol, 1.5 Eq.) in toluene (5 mL) and EtOH (1 mL). The reaction was heated at reflux under nitrogen overnight. After cooling to ambient temperature the reaction mixture was diluted with water (10 mL) and extracted with EtOAc (3×20 mL). The combined organic extracts were dried (MgSO4), filtered and the solvent removed in vacuo. The residue was purified by column chromatography on SiO2, eluting with 10% Et2O/petroleum ether to give the desired compound as a white foam (113 mg, 0.29 mmol, 76%).

reactant | Na2CO3 | 2.63 mmol, 279 mg, 6.9 Eq. | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 2-fluoro-3-iodo-5-phenyl-pyridine | 0.38 mmol, 114 mg, 1.0 Eq. | FC1=NC=C(C=C1I)C1=CC=CC=C1 | C11H7FIN
reactant | 1-boc-indole-2-boronic acid | 0.57 mmol, 116 mg, 1.5 Eq. | C(=O)(OC(C)(C)C)N1C(=CC2=CC=CC=C12)B(O)O | C13H16BNO4
solvent | water | 2 mL | O | H2O
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | water | 10 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.04 mmol, 44 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 2-(2-fluoro-5-phenylpyridin-3-yl)-1H-indole-1-carboxylate | 0.29 mmol, 113 mg, 76% | FC1=NC=C(C=C1C=1N(C2=CC=CC=C2C1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C24H21FN2O2
